US06235758B1
5-Nitro-1-(3-pyridyl)indole (D50)
A mixture of 5-nitroindole (0.49 g, 3 mmol), 3-bromopyridine (0.95 g, 6 mmol), copper (I) bromide (60 mg, 0.42 mmol) and potassium carbonate (0.62 g, 4.5 mmol) in pyridine (2 (mL) and nitrobenzene (0.6 mL) was heated under reflux for 4 h. After cooling, the mixture was diluted with water and extracted wtih ethyl acetate. The organic extract was washed with water, dried and evaporated. The residue was chromatographed on silica gel eluted with ethyl acetate to give the title compound (0.62 g, 86.5%), mp. 164-5° C.

reactant | 5-nitroindole | 3 mmol, 0.49 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | 3-bromopyridine | 6 mmol, 0.95 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 0.6 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
catalyst | copper (I) bromide | 0.42 mmol, 60 mg | [Cu]Br
product | 5-Nitro-1-(3-pyridyl)indole | 0.62 g, 86.5% | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)C=1C=NC=CC1 | C13H9N3O2
